US05753664
2-[3-(4-Chlorobenzoyl)benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
In methanol (18.7 ml) was suspended 5-methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (1.36 g) followed by addition of 1N-sodium hydroxide (7.88 ml) for dissolution. Then, under ice-cooling, a solution of 3-(4-chlorobenzoyl)benzyl bromide (2.79 g) in DME-DMF (6:5; 22 ml) was added dropwise. The mixture was stirred at room temperature for 20 hours, at the end of which time it was poured in ice-water (200ml). The resulting precipitate was collected by filtration and rinsed with water. Then, it was further washed with 50% ethanol/water, methanol and ether in that order, dried, and purified by flash column chromatography (chloroform, containing 1% methanol) to provide the title compound (1.94 g). 1H-NMR (DMSO-d6) δ: 2.25(3H,s), 4.50(2H,s), 6.65(1H,s), 7.50(2H,d,J=8.OHz), 7.69(2H,d,J=8.6Hz), 7.51-7.82(4H,m), 11.38(1H,s), 11.95(1H,s).

reactant | 5-methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.36 g | CC1=CNC=2N=C(NC(C21)=O)S | C7H7N3OS
reactant | sodium hydroxide | 7.88 ml | [OH-].[Na+]
reactant | 3-(4-chlorobenzoyl)benzyl bromide | 2.79 g | ClC1=CC=C(C(=O)C=2C=C(CBr)C=CC2)C=C1 | C14H10BrClO
solvent | methanol | 18.7 ml | CO | CH4O
solvent | DME DMF | 22 ml | COCCOC.CN(C)C=O
product | 2-[3-(4-Chlorobenzoyl)benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.94 g | ClC1=CC=C(C(=O)C=2C=C(CSC=3NC(C4=C(N3)NC=C4C)=O)C=CC2)C=C1 | C21H16ClN3O2S
